US05532248
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-benzyloxymethoxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (150 mg in 2 ml methylene chloride) was added disopropylethylamine (99.4 μl) followed by benzyl chloromethyl ether (34.2 μl neat) and the mixture stirred at room temperature. After 24 hours, the reaction was quenched by the addition of saturated sodium bicarbonate and extracted with ethyl acetate (3×20 ml). The combined organics were washed with brine and dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (ethyl acetate:hexane (1:2)+1% methanol) gave the title compound (92 mg).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 2 ml, 150 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
reactant | benzyl chloromethyl ether | 34.2 μl | ClCOCC1=CC=CC=C1 | C8H9ClO
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-benzyloxymethoxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 92 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCOCC2=CC=CC=C2)OC)C)C)O)=O | C51H77NO13
